US08536168B2
Methoxy-acetic acid 6-[4-(4-benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridin-3-ylmethyl ester
{6-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridin-3-yl}-methanol (80 mg, 0.194 mmol), CH2Cl2 (1 mL), and triethylamine (40 μL, 2.916 mmol) are added to a flask. Add methoxyacetyl chloride (23.2 mg, 0.214 mmol) dropwise at room temperature. Stir 1 h. The crude mixture is purified by flash chromatography on silica gel (MeOH/CH2Cl2) to afford the title compound (38 mg, 40%).

reactant | {6-[4-(4-Benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridin-3-yl}-methanol | 0.194 mmol, 80 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=CC=C(C=N1)CO | C25H25N5O
reactant | triethylamine | 2.916 mmol, 40 μL | C(C)N(CC)CC | C6H15N
reactant | methoxyacetyl chloride | 0.214 mmol, 23.2 mg | COCC(=O)Cl | C3H5ClO2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | Methoxy-acetic acid 6-[4-(4-benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridin-3-ylmethyl ester | 38 mg, 40% | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=CC=C(C=N1)COC(COC)=O | C28H29N5O3
